data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_645047_0,[C:1](\[N:3]([O:6][H:8])[N:7]([C:5]([H:10])([H:15])[H:16])[H:9])(=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:11]>>[C:1]([N:3]([O:6][H:8])[N:7]=[C:5]([H:15])[H:16])([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])([H:10])[H:11],62.98593999998928
MR_507341_0,[C:1]([N:3]1[C:4]([N:7][C:2]([H:11])([H:12])[H:13])[C:5]1=[C:6]([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1](/[N:3]=[C:4]1/[C:5](=[C:6]([H:14])[H:15])[N:7]1[C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10],49.59195250002708
MR_41004_0,[C:1](=[C:2]([H:8])[H:9])([O:3][O:4][H:6])[O:5][H:7]>>[C:1]1([O:4][H:6])([O:5][H:7])[C:2]([H:8])([H:9])[O:3]1,22.930104999998235
MR_255268_0,[C:1]([C:2]([C:3](=[O:6])[H:10])=[O:5])([O:4][H:7])([H:8])[H:9]>>[C:1]([C@@:3]1([H:10])[C:2](=[O:5])[O:6]1)([O:4][H:7])([H:8])[H:9],51.145642500028
MR_525956_0,[N:1]([C:2](=[C:3]([H:9])[H:10])[O:5][H:7])([O:4][H:6])[H:8]>>[N:1](=[C:2](\[C:3]([O:4][H:6])([H:9])[H:10])[O:5][H:7])\[H:8],49.85675750000056
MR_98262_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:6]1([O:7][H:12])[H:10]>>[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[C:6](=[O:7])[H:10],70.63265500001592
MR_50462_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])(/[C:4]([N:5]([H:10])[H:11])=[N:7]/[O:6][H:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[C:4]([N:5]([H:10])[H:11])[N:7]([O:6][H:8])[H:9],64.04264999999654
MR_508777_0,[C:1]([C:3](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])/[N:6]=[N:7]/[N:4]([H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[N:6][N:7]([N:4]([H:8])[H:9])[C:5]1([C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13],42.4152349999909
MR_477567_0,[C:1]([C@@:2]([N:6]([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])[H:10])([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[O:8][H:9]>>[C:1]([C@:2]([N:6]([H:11])[H:12])([O:8][H:9])[H:10])([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[O:7][C:3]([H:13])([H:14])[H:15],68.60143750000788
MR_256704_0,[C:1]([N:3]([O:6][H:8])[H:9])(/[C:4]([O:5][C:2]([H:13])([H:14])[H:15])=[N:7]/[H:10])([H:11])[H:12]>>[C:1](=[C:4]([O:5][C:2]([H:13])([H:14])[H:15])[N:7]([N:3]([O:6][H:8])[H:9])[H:10])([H:11])[H:12],73.11818249998268
MR_642338_1,[N:1]([C:2]([N:3]([H:9])[H:10])=[C:5]([H:12])[H:13])([O:7][C:4](=[C:6]([H:14])[H:15])[H:11])[H:8]>>[N:1]1([H:8])[C@@:2]([N:3]([H:9])[H:10])([C:5]([C:4](=[C:6]([H:14])[H:15])[H:11])([H:12])[H:13])[O:7]1,58.82122250001743
MR_471403_0,[C:1]([C:3]([C:2]([H:9])([H:10])[H:11])=[O:6])([N:5]=[C:4]([H:12])[H:13])([H:7])[H:8]>>[C:1](=[N:5][C:4]([C:3]([C:2]([H:9])([H:10])[H:11])=[O:6])([H:12])[H:13])([H:7])[H:8],69.99072249999585
MR_326942_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])[N:4]([H:8])[C:3]([H:15])([H:16])[C:6]1([O:7][H:17])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([C:3]([H:15])([H:16])[H:17])[H:8])([N:5]([H:9])[H:10])[C:6](=[O:7])[H:11],72.60426000003179
MR_34589_1,[C:1]([O:5][C:2](/[N:6]=[C:4](\[N:3]([H:9])[H:10])[H:11])=[N:7]\[H:8])([H:12])([H:13])[H:14]>>[C:1]([O:5][C@@:4]([N:3]([H:9])[H:10])([N:6][C:2][N:7][H:8])[H:11])([H:12])([H:13])[H:14],46.18023500000888
MR_132255_0,[C:1](\[O:4][C:3](=[O:7])[H:11])([O:5][H:8])=[N:6]/[N:2]([H:9])[H:10]>>[C:1](=[O:4])([O:5][H:8])[N:6]([N:2]([H:9])[H:10])[C:3](=[O:7])[H:11],22.8453924999981
MR_669117_1,[C:1]([C:3]([C:4](=[O:9])[H:12])=[O:8])([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:11])[O:7][H:10]>>[C:1]([C:3]([C:4]([O:5][C:2]([H:13])([H:14])[H:15])([O:9][H:10])[H:12])=[O:8])([O:6][H:11])=[O:7],26.681300000051067
MR_615998_2,[C:1]([O:5][N:2]([O:4][N:3]([H:7])[H:8])[H:6])([H:9])([H:10])[H:11]>>[C:1]([O:5][O:4][N:2]([N:3]([H:7])[H:8])[H:6])([H:9])([H:10])[H:11],59.92060249998829
MR_70020_1,[C:1]([N:3]([C:5](=[O:7])[H:9])[H:8])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:3]([H:8])[C@@:4]1([C:2]([H:12])([H:13])[H:14])[O:6][C:5](=[O:7])[H:9],71.62598750000484
MR_357332_2,[C:1](\[N:2]([H:7])[H:8])(=[C:4](\[N:3]([H:9])[H:10])[H:11])[O:5][H:6]>>[C@@:1]([N:2]([H:7])[H:8])(/[C:4](=[N:3]/[H:9])[H:11])([O:5][H:6])[H:10],71.60904499997628
MR_324472_0,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[O:6][H:8])[N:5]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:7]([N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13],71.6109275000072
MR_605887_2,[C:1]([C:3]([O:7][C:2]([H:14])([H:15])[H:16])=[O:8])([N:5]([H:12])[H:13])([O:6][N:4]([H:10])[H:11])[H:9]>>[C:1]([C:3]([O:6][N:4]([H:10])[H:11])=[O:8])([N:5]([H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])[H:9],47.66803749999781
MR_588521_1,[C:1]([C:2](/[C:3](=[N:7]\[O:4][H:9])[H:13])=[O:8])([O:5][H:10])([O:6][H:11])[H:12]>>[C:1]([C@:3]1([H:13])[C:2]([O:8])[N:7]1[O:4][H:9])([O:5][H:10])([O:6][H:11])[H:12],71.81486499999167
